US08404709B2
3-Methoxy-4-(2-methyl-3-nitro-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)benzonitrile
688 mg (4.26 mmol) of 4-formyl-3-methoxybenzonitrile are dissolved with 440 mg (4.26 mmol) of 1-nitroacetone, 470 mg (4.26 mmol) of 4-aminopyridin-2(1H)-one [Searls, T., McLaughlin, L. W., Tetrahedron 55, 11985-11996 (1999)] and 367 μl (6.40 mmol) of acetic acid in 10 ml of isopropanol and heated under reflux under argon for 12 h. After cooling, DMSO (5 ml) is added and the reaction solution is purified directly by preparative HPLC. 41 mg (2% of theory) of the title compound are obtained as a brown solid.

reactant | 4-formyl-3-methoxybenzonitrile | 4.26 mmol, 688 mg | C(=O)C1=C(C=C(C#N)C=C1)OC | C9H7NO2
reactant | 1-nitroacetone | 4.26 mmol, 440 mg | [N+](=O)([O-])CC(=O)C | C3H5NO3
reactant | 4-aminopyridin-2(1H)-one | 4.26 mmol, 470 mg | NC1=CC(NC=C1)=O | C5H6N2O
reactant | acetic acid | 6.40 mmol, 367 μl | C(C)(=O)O | C2H4O2
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 3-Methoxy-4-(2-methyl-3-nitro-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)benzonitrile | COC=1C=C(C#N)C=CC1C1C(=C(NC=2C=CNC(C12)=O)C)[N+](=O)[O-] | C17H14N4O4
